US08957070B2
7-[(2-Thienylsulfonyl)amino]-1H-indole-2-carboxamide
To a mixture of 7-[(2-thienylsulfonyl)amino]-1H-indole-2-carboxylic acid (1.50 g), 1H-1,2,3-benzotriazol-1-ol (0.75 g) and N,N-dimethylformamide (15 mL) was added N-[3-(dimethylamino)propyl]-N′-ethylcarbodiimide hydrochloride (1.10 g) at room temperature. The mixture was stirred for 10 min, and 28% aqueous ammonia (1.70 mL) was added. The reaction mixture was stirred at room temperature for 3 hr, and water was added. The mixture was acidified with 10% aqueous citric acid solution, and the resulting crystals were filtrated, washed with water, and dried to give the title compound (1.46 g, yield 98%) as yellow crystals. melting point>300° C. (decomposition).

reactant | 7-[(2-thienylsulfonyl)amino]-1H-indole-2-carboxylic acid | 1.50 g | S1C(=CC=C1)S(=O)(=O)NC=1C=CC=C2C=C(NC12)C(=O)O | C13H10N2O4S2
reactant | 1H-1,2,3-benzotriazol-1-ol | 0.75 g | N1(N=NC2=C1C=CC=C2)O | C6H5N3O
reactant | N-[3-(dimethylamino)propyl]-N′-ethylcarbodiimide hydrochloride | 1.10 g | Cl.CN(CCCN=C=NCC)C
reactant | ammonia | 1.70 mL | N | H3N
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | water | O | H2O
solvent | N,N-dimethylformamide | 15 mL | CN(C=O)C | C3H7NO
product | 7-[(2-Thienylsulfonyl)amino]-1H-indole-2-carboxamide | 1.46 g, yield 98% | S1C(=CC=C1)S(=O)(=O)NC=1C=CC=C2C=C(NC12)C(=O)N | C13H11N3O3S2
